US04018931
N-Methyl-N'-[2-(2-benzimidazolylmethylthio)ethyl]urea
By the procedure of Example 24, 2-[(2-aminoethyl)thiomethyl]benzimidazole is reacted with methyl isocyanate to give the title compound.

reactant | 2-[(2-aminoethyl)thiomethyl]benzimidazole | NCCSCC=1NC2=C(N1)C=CC=C2 | C10H13N3S
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | N-Methyl-N'-[2-(2-benzimidazolylmethylthio)ethyl]urea | CNC(=O)NCCSCC=1NC2=C(N1)C=CC=C2 | C12H16N4OS
